US09427475B2
Step C: benzyl 6-{bis[2-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-2-oxoethyl]amino}-6-oxohexanoate
To a stirred solution of 2,2′-{[6-(benzyloxy)-6-oxohexanoyl]imino}diacetic acid (800 mg, 2.277 mmol) in DMF (12 mL) at room temperature was added 2-aminoethyl α-L-fucopyranoside (1.132 g, 5.46 mmol), DMAP (834 mg, 6.83 mmol) and EDC (1.528 g, 7.97 mmol). After stirring at rt for 16 hr, the reaction mixture was concentrated and the residue was purified by flash chromatography on C18 reverse phase silica gel (120 g), eluting with 0-40% AcCN in water, to give the title compound. LC-MS Method A: m/e=730.26 [M+1]; Rt=1.42 min.

reactant | 2,2′-{[6-(benzyloxy)-6-oxohexanoyl]imino}diacetic acid | 2.277 mmol, 800 mg | C(C1=CC=CC=C1)OC(CCCCC(=O)N(CC(=O)O)CC(=O)O)=O | C17H21NO7
reactant | 2-aminoethyl α-L-fucopyranoside | 5.46 mmol, 1.132 g | O([C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)CCN | C8H17NO5
reactant | EDC | 7.97 mmol, 1.528 g
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 6.83 mmol, 834 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | benzyl 6-{bis[2-({2-[(α-L-fucopyranosyl)oxy]ethyl}amino)-2-oxoethyl]amino}-6-oxohexanoate | [C@@H]1([C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)OCCNC(CN(C(CCCCC(=O)OCC1=CC=CC=C1)=O)CC(NCCO[C@H]1[C@@H](O)[C@H](O)[C@H](O)[C@@H](O1)C)=O)=O | C33H51N3O15
